US06872809B2
The thus-obtained 5′-azido-5′-deoxythymidine was then dissolved in methanol and reduced with hydrogen using 10% palladium/carbon as a catalyst, whereby 5′-amino-5′-deoxythymidine was obtained. Yield 1.734 g, 71.6%.

reactant | 5′-azido-5′-deoxythymidine | N(=[N+]=[N-])C[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O | C10H13N5O4
solvent | methanol | CO | CH4O
catalyst | hydrogen | [H][H] | H2
product | 5′-amino-5′-deoxythymidine | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O | C10H15N3O4
